### PR TITLE
feat: dyadic rationals

### PR DESCRIPTION
**Pull request by kim-em**
This PR defines the dyadic rationals, showing they are an ordered ring embedding into the rationals. We will use this for future interval arithmetic tactics.

Many thanks to @Rob23oba, who did most of the implementation work here.

### CODE REVIEW

**Comment by vihdzp** [comment]
This would be hugely helpful for game theory!

File: src/Init/Data/Rat/Dyadic.lean [hunk 1]
```diff
@@ -0,0 +1,148 @@
...
+example : toDyadic (ofDyadic (some (7, 2))) = some (7, 2) := by native_decide
+example : toDyadic (ofDyadic (some (-7, 2))) = some ((-7 : Int), 2) := by native_decide
+example : ofDyadic (toDyadic 0) = 0 := rfl
+example : ofDyadic (toDyadic 37) = 37 := by native_decide
+example : ofDyadic (toDyadic (-37)) = -37 := by native_decide
+
+/-- A dyadic rational is either zero or of the form `(2 * n + 1) / 2^k` for some (unique) `n k : Int`. -/
+inductive Dyadic where
+| zero
+| of (n : Int) (k : Int)
```
Comment (plp127) [inline src/Init/Data/Rat/Dyadic.lean]: Looking at some of the stuff below, I'm wondering if it would just be better to store the integer directly along with a proof that it's odd.

Comment (kim-em) [reply src/Init/Data/Rat/Dyadic.lean]: Yes, I think this is probably better, too. I probably won't work on this in the immediate future if you or someone else wants to push it through. :-)

**Comment by kim-em** [comment]
> This would be hugely helpful for game theory!

That's not the intent. This is for computation.

**Comment by vihdzp** [comment]
Well, having a type of `Dyadic` rationals anywhere upstream from the game theory repository would still be welcome.

**Comment by GasStationManager** [comment]
Here's a partial proof of toDyadic_ofDyadic, partly done by Claude Opus:
```

theorem pow_two_ne_zero (k : Nat) : (2 : Int) ^ k ≠ 0 := by
  induction k with
  | zero => 
    decide
  | succ k ih =>
    rw [Int.pow_succ]
    apply Int.mul_ne_zero
    · exact ih
    · decide



theorem trailingZeros_odd_mul_pow2 (n : Int) (k : Nat) : 
    trailingZeros ((2 * n + 1) * 2 ^ k) = k := by
  induction k with
  | zero =>
    simp [Int.pow_zero, Int.mul_one]
    exact trailingZeros_two_mul_add_one n
  | succ k' ih =>
    have: ((2 * n + 1) * 2 ^ (k' + 1)) = 2 * ((2 * n + 1) * 2 ^ k') :=by grind
    rw[this]
    have: k' + 1 = ((2 * n + 1) * 2 ^ k').trailingZeros +1 :=by grind
    rw[this]
    apply trailingZeros_two_mul 
    refine Int.mul_ne_zero_iff.mpr ?_
    grind [pow_two_ne_zero]

theorem odd_div_two (n : Int) : (2 * n + 1) / 2 = n := by
  rw [Int.add_ediv_of_dvd_left]
  · grind
  · apply Int.dvd_mul_right

theorem div_mul_cancel (n : Int) (k : Nat) : 
    (2 * n + 1) * 2 ^ k / 2 ^ (k + 1) = n := by
  sorry


theorem toDyadic_ofDyadic (x : Option (Int × Nat)) : toDyadic (ofDyadic x) = x := by
  cases x with
  | none => 
    unfold ofDyadic toDyadic
    rfl
  | some pair =>
    obtain ⟨n, k⟩ := pair
    unfold ofDyadic toDyadic
    have h_ne_zero : (2 * n + 1) * 2 ^ k ≠ 0 := by
      apply Int.mul_ne_zero
      · grind
      · exact pow_two_ne_zero k
    simp [if_neg h_ne_zero]
    have h_tz : trailingZeros ((2 * n + 1) * 2 ^ k) = k := trailingZeros_odd_mul_pow2 n k
    simp [h_tz]
    exact div_mul_cancel n k
```
Seeing discussion above though that the definition of Dyadic may change; is it still worth trying to fill the remaining sorry in this proof now?

**Comment by kim-em** [comment]
> Seeing discussion above though that the definition of Dyadic may change; is it still worth trying to fill the remaining sorry in this proof now?

Having had another look at it, I'm actually skeptical of changing the definition. It wouldn't (I think) significantly reduce our arithmetical difficulties to the `toRat_add` proof, and the proposed change actually requires proving a few annoying facts before you can even define `toDyadic`. I think it's best to stick with the current, where the definitions are proof-free, and postpone all the arithmetical proofs until after the definitions.

**Comment by kim-em** [comment]
> Here's a partial proof of toDyadic_ofDyadic, partly done by Claude Opus:

Unfortunately I can't use this proof, as to be useful for our purposes this module will not be allowed to use `grind`. Annoying bootstrapping issues... :-)

**Comment by plp127** [comment]
I think I could cook up some proofs without `grind`

File: src/Init/Data/Rat/Dyadic.lean [hunk 2]
```diff
@@ -0,0 +1,200 @@
...
+  | .of n (k : Nat), .of m (-((l : Nat) + 1)) =>
+    let n' := (2 * n + 1) + (2 * m + 1) * 2 ^ (k + l + 1)
+    match toDyadic n' with
+    | none => .zero
+    | some (n'', k') => .of n'' (k - k')
+  | .of n (-((k : Nat) + 1)), .of m (-((l : Nat) + 1)) =>
+    let n' := (2 * n + 1) * 2 ^ (k - l) + (2 * m + 1) * 2 ^ (l - k)
+    match toDyadic n' with
+    | none => .zero
+    | some (n'', k') => .of n'' (- (min (k + 1) (l + 1)) - k')
```
Comment (Rob23oba) [inline src/Init/Data/Rat/Dyadic.lean]: Is there a reason for us to match on `k` and `l` here? I would've just matched on `k - l`:
```lean-4
/--
A dyadic rational is either zero or of the form `n * 2^(-k)` for some (unique) `n k : Int`
where `n` is odd.
-/
inductive Dyadic where
  | zero
  | of (n : Int) (k : Int) (hn : n % 2 = 1)
deriving DecidableEq

/-- Returns the dyadic number representation of `i * 2 ^ (-exp)`. -/
def Dyadic.ofIntWithExp (i : Int) (exp : Int) : Dyadic :=
  if h : i = 0 then .zero
  else .of (i >>> i.trailingZeros) (exp - i.trailingZeros) (Int.shiftRight_trailingZeros_mod_two h)

def Dyadic.ofInt (i : Int) : Dyadic :=
  Dyadic.ofIntWithExp i 0

namespace Dyadic

instance (n : Nat) : OfNat Dyadic n where
  ofNat := Dyadic.ofInt n

/--
Addition of dyadic rationals.
-/
def add (x y : Dyadic) : Dyadic :=
  match x, y with
  | .zero, y => y
  | x, .zero => x
  | .of n₁ k₁ hn₁, .of n₂ k₂ hn₂ =>
    match k₁ - k₂ with
    | 0 => .ofIntWithExp (n₁ + n₂) k₁
    | (d@hd:(d' + 1) : Nat) => .of (n₁ + n₂ * 2 ^ d) k₁ ?_
    | -(d + 1 : Nat) => .of (n₁ * 2 ^ (d + 1) + n₂) k₂ ?_
where finally all_goals simp_all [Int.pow_succ, ← Int.mul_assoc]
```
(and)
```lean-4
theorem Int.shiftRight_trailingZeros_mod_two {i : Int} (h : i ≠ 0) :
    (i >>> i.trailingZeros) % 2 = 1 := by
  rw (occs := .pos [2]) [← Int.emod_add_ediv i 2]
  rcases i.emod_two_eq with h' | h' <;> rw [h']
  · rcases Int.dvd_of_emod_eq_zero h' with ⟨a, rfl⟩
    simp only [ne_eq, Int.mul_eq_zero, Int.reduceEq, false_or] at h
    rw [Int.zero_add, mul_ediv_cancel_left _ (by decide), trailingZeros_two_mul h, Nat.add_comm,
      shiftRight_add, shiftRight_eq_div_pow _ 1]
    simpa using shiftRight_trailingZeros_mod_two h
  · rwa [Int.add_comm, trailingZeros_two_mul_add_one, shiftRight_zero]
termination_by i.natAbs
```

**Comment by GasStationManager** [comment]
@kim-em thanks for the feedback! Claude doesn't normally use grind unless prompted to; the instances of grind there were my attempts at proof repair (and proof shortening in a couple cases). 

Would use of `omega` be okay in this context?

File: src/Init/Data/Rat/Dyadic.lean (hunk 2 above)
Comment (Rob23oba) [reply src/Init/Data/Rat/Dyadic.lean]: I've put my changes onto a branch ([compare](https://github.com/leanprover/lean4/compare/dyadic...Rob23oba:lean4:dyadic)) if you're interested

Comment (kim-em) [reply src/Init/Data/Rat/Dyadic.lean]: Beautiful, these are a great improvement. And I see you've done much more as well! :-)

**Comment by kim-em** [comment]
> Would use of `omega` be okay in this context?

Yes, `omega` is fine in this file.

**Comment by Rob23oba** [comment]
We need a different name for `of` :-) Any ideas?

**Comment by Rob23oba** [comment]
I've made some more changes myself again, specifically shortening `toDyadic_toRat` and making it about
```lean-4
@[simp]
theorem toDyadic_toRat (x : Dyadic) (prec : Int) :
    x.toRat.toDyadic prec = x.roundDown prec := by
```
This time I didn't hold back on expanding the proof API elsewhere :-)

**Comment by Rob23oba** [comment]
I don't think we're going to get much further though without upstreaming `Rat` lemmas from mathlib

**Comment by alok** [comment]
This may not be best place for it, but < and > don’t work on Rat rn for
lack of Ord

**Comment by Rob23oba** [comment]
#10077 upstreams some of the lemmas from mathlib files, on my branch I have added even more (mostly lemmas that didn't exist in the `Rat` namespace before since they are proven in mathlib using the lemmas for `Field`) which gives us everything we need about `toRat` and allows us to get all the `grind` type classes. We still gotta do rounding though...

**Comment by kim-em** [comment]
I'll postpone the material on rounding to a second PR, so we can get this in. Thanks @Rob23oba for all the contributions here!

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase a06e6e7f4d450181939cce7287953b44c2130dab --onto 21f5263f2f28e5fd7b6a99c40f0c11351f04aedb`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-08-26 00:20:45)
